### PR TITLE
feat: `IsField.embed`

### PR DESCRIPTION
**Pull request by vihdzp**
We introduce `IsField.embed`, which reinterprets a polynomial as existing in the subfield for an element `IsField x`.

We could have introduced this as `IsRing.embed` instead, but that has the trouble that Lean can't infer a field instance for `h.toSubring` even when `h : IsField x`, and some later results will require a field.

### CODE REVIEW

File: CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean [hunk 1]
```diff
@@ -31,3 +38,96 @@ theorem natDegree_eq_zero_iff : p.natDegree = 0 ↔ p = 0 ∨ p.degree = 0 := by
...
+theorem IsRing.coeff_prod_lt {x : Nimber} {ι} {f : ι → Nimber[X]} {s : Finset ι} (h : IsRing x)
+    (hx₁ : 1 < x) (hs : ∀ y ∈ s, ∀ k, (f y).coeff k < x) : ∀ k, (s.prod f).coeff k < x := by
+  classical
+  induction s using Finset.induction with
+  | empty =>
+    have := zero_lt_one.trans hx₁
+    aesop
+  | insert y s hy IH =>
+    rw [Finset.prod_insert hy]
+    apply h.coeff_mul_lt <;> aesop
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/SimplestExtension/Polynomial.lean]:
```suggestion
    apply h.coeff_mul_lt <;> simp_all
```

**Review by tristan-f-r — APPROVED** [review]
(Thanks for explaining the reasoning for choosing `IsField` over `IsRing`!)
